US05294610
3,5-Dibromo-(dimethoxymethyl)benzene
A mixture of 13.2 g (50 mmoles) of crude 3,5-dibromobenzaldehyde, 2 mL (50 mmoles) of methanol, and 100 mg of p-toluenesulfonic acid in 100 mL of 2,2-dimethoxypropane was heated to reflux 6 hrs. After cooling, solvent was removed in vacuo to give a brown oil. This was applied on silica gel and washed with 1:20 ethylacetate:hexane mixture. The filtrate was concentrated to orange brown oil of the desired acetal.

reactant | 3,5-dibromobenzaldehyde | 50 mmoles, 13.2 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | methanol | 50 mmoles, 2 mL | CO | CH4O
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,2-dimethoxypropane | 100 mL | COC(C)(C)OC | C5H12O2
product | 3,5-Dibromo-(dimethoxymethyl)benzene | BrC=1C=C(C=C(C1)Br)C(OC)OC | C9H10Br2O2
